US04965257
Diethyl 2-benzyloxymethyl-2-(2,2-dimethylpropyl)malonate (15 g.) in dry diethyl ether (50 ml.) was added slowly to a stirred suspension of lithium aluminium hydride (7.0 g.) in dry diethyl ether (200 ml.) at 0°, under nitrogen. The mixture was stirred at room temperature for 12 hours. Aqueous sodium hydroxide solution (25 ml., 10% solution) was added carefully. The mixture was filtered and the solid was washed with diethyl ether. The filtrates were dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by chromatography on silica, eluting with 1:4 ethyl acetate:hexane. 2-Benzyloxymethyl-2-(2,2-dimethylpropyl)-propan-1,3-diol was obtained as a colourless oil (5.5 g.).

reactant | Diethyl 2-benzyloxymethyl-2-(2,2-dimethylpropyl)malonate | 15 g | C(C1=CC=CC=C1)OCC(C(=O)OCC)(C(=O)OCC)CC(C)(C)C | C20H30O5
reactant | lithium aluminium hydride | 7.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-Benzyloxymethyl-2-(2,2-dimethylpropyl)-propan-1,3-diol | C(C1=CC=CC=C1)OCC(CO)(CO)CC(C)(C)C | C16H26O3
